US07816401B2
Synthesis of Pladienolide B
Triethylamine (17.2 μl, 123 μmol), acetic anhydride (5.83 μl, 616 μmol) and 4-dimethylaminopyridine (1.50 mg, 12.3 μmol) were added to anhydrous dichloromethane (2.00 ml) solution of pladienolide A (30.5 mg, 61.6 μmol) under stirring at 0° C. After the reaction solution was stirred at 0° C. for one hour, it was poured into a saturated sodium hydrogen carbonate aqueous solution, which was then extracted with ethyl acetate. After the organic layer was washed with brine, it was dried over anhydrous magnesium sulfate. After the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Kanto Chemical, commercial name Silica gel 60N, granular, neutral, 0.040 mm-0.100 mm; n-heptane:acetone=3:1→2:1) to obtain the title compound (27.2 mg) as a colorless oil. This was obtained as a white amorphous by purifying by HPLC (Shiseido, commercial name CAPCELL PAK C18SG120; acetonitrile:water=45:55) followed by performing lyophilization.

reactant | Triethylamine | 123 μmol, 17.2 μl | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 616 μmol, 5.83 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | pladienolide A | 61.6 μmol, 30.5 mg | CC[C@@H]([C@@H](C)[C@@H]1[C@H](O1)C[C@H](C)/C=C/C=C(\C)/[C@@H]2[C@H](CC[C@@H]([C@](CC[C@H](CC(=O)O2)O)(C)O)O)C)O | C28H48O7
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 12.3 μmol, 1.50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 2.00 ml | ClCCl | CH2Cl2
product | Pladienolide B | 27.2 mg | CC[C@@H]([C@@H](C)[C@@H]1[C@H](O1)C[C@H](C)/C=C/C=C(\C)/[C@@H]2[C@H](CC[C@@H]([C@](CC[C@H](CC(=O)O2)O)(C)O)OC(=O)C)C)O | C30H50O8
